US03966762
A solution of 5-piperidino-2-pentanone hydrochloride (3.4g.) and 5-amino-10,11-dihydro-5H-dibenz[b,f]azepine hydrochloride (4.2g.) in isopropyl alcohol (50 ml.) was warmed on a steam bath in a nitrogen atmosphere for thirty minutes, cooled and treated with concentrated ammonium hydroxide. The resulting mixture was extracted with ether and the ether extract was washed with water and dried. The resulting solution in ether of the free base 2-(2-piperidinoethyl)-1-methyl-6,7-dihydroindolo[1,7-ab][1]benzazepine was treated with ethanolic hydrogen chloride. The precipitate was collected and a suspension thereof in acetone-isopropyl alcohol was heated, cooled, filtered and recrystallized from methyl alcohol to give 2-(2-piperidinoethyl)-1-methyl-6,7-dihydroindolo[1,7-ab][1]benzazepine hydrochloride (2.5g.), m.p. 291°-293°C.

reactant | 5-piperidino-2-pentanone hydrochloride | 3.4g | Cl.N1(CCCCC1)CCCC(C)=O
reactant | 5-amino-10,11-dihydro-5H-dibenz[b,f]azepine hydrochloride | 4.2g | Cl.NN1C2=C(CCC3=C1C=CC=C3)C=CC=C2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | isopropyl alcohol | 50 ml | C(C)(C)O | C3H8O
product | 2-(2-piperidinoethyl)-1-methyl-6,7-dihydroindolo[1,7-ab][1]benzazepine hydrochloride | 2.5g | Cl.N1(CCCCC1)CCC1=C(N2C3=C(CCC4=C2C=CC=C4)C=CC=C13)C | InChI=1S/C24H28N2.ClH/c1-18-21(14-17-25-15-5-2-6-16-25)22-10-7-9-20-13-12-19-8-3-4-11-23(19)26(18)24(20)22;/h3-4,7-11H,2,5-6,12-17H2,1H3;1H
